US08703965B2
Pyridine (2 mL) was added to a round bottom flask charged with N,N′-dimesitylformamidine hydrochloride (0.27 g, 0.85 mmol). The solution was stirred for 5 minutes then diluted with water (10 mL), whereupon crude product precipitated. The precipitate was collected by vacuum filtration, washed with cold hexanes (5 mL) and dried in vacuo to afford N,N′-dimesitylformamidine (0.24 g, 84%) as a colorless powder.

reactant | Pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | N,N′-dimesitylformamidine hydrochloride | 0.85 mmol, 0.27 g | Cl.C1(=C(C(=CC(=C1)C)C)NC=NC1=C(C=C(C=C1C)C)C)C
solvent | water | 10 mL | O | H2O
product | N,N′-dimesitylformamidine | 0.24 g, 84% | C1(=C(C(=CC(=C1)C)C)NC=NC1=C(C=C(C=C1C)C)C)C | C19H24N2
